US09376401B2
Preparation of methyl 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate (Compound 3)
A microwave vial was charged with methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (147 mg, 0.561 mmol), 3-bromo-1-(4-(pentafluoroethoxy)phenyl)-1H-1,2,4-triazole (200 mg, 0.559 mmol), NaHCO3 (94 mg, 1.2 mmol), and Pd(PPh3)4 (39 mg, 0.034 mmol). Dioxane (3.8 mL) and water (1.2 mL) were added, the reaction vial was capped, and the reaction was heated at 140° C. for 30 min in a Biotage Initiator® microwave reactor with external IR-sensor temperature monitoring from the side of the vessel. The reaction mixture was cooled to RT, and allowed to stand overnight. A white solid formed, which was filtered and air-dried to give the title compound as a white solid (146 mg, 62%): mp 192-195° C., 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.28 (d, J=9.0 Hz, 2H), 8.19-8.12 (d, J=9.0 Hz, 2H), 7.82 (d, J=9.0 Hz, 2H), 7.45-7.38 (m, 2H), 3.95 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −85.90, −87.86; ESIMS m/z 414 ([M+H])+.

reactant | methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.561 mmol, 147 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)OC)C=C1)C | C14H19BO4
reactant | 3-bromo-1-(4-(pentafluoroethoxy)phenyl)-1H-1,2,4-triazole | 0.559 mmol, 200 mg | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C10H5BrF5N3O
reactant | NaHCO3 | 1.2 mmol, 94 mg | C(=O)(O)[O-].[Na+]
reactant | Dioxane | 3.8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.034 mmol, 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.2 mL | O | H2O
product | methyl 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate | 146 mg, 62% | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C(=O)OC)C=C1)F | C18H12F5N3O3
